US07238719B2
Copper(I) chloride (7.5 mg, 0.075 mmol) was added at room temperature to a solution (1.0 mL) of sodium azide (74 mg, 1.1 mmol) in N,N-dimethylformamide. A solution (1.5 mL) of ethyl 4-(3,4-dimethoxyphenyl)-4-oxo-2-butenate (200 mg, 0.76 mmol) in N,N-dimethylformamide was added to this mixed solution at 5° C. The temperature of the reaction solution was raised to room temperature before the reaction solution was stirred for 8 hr. After the completion of the reaction, the reaction solution was poured into iced water, and the mixture was extracted with a saturated aqueous sodium hydrogencarbonate solution. The aqueous layer was adjusted to pH 1.8 by the addition of 2 N hydrochloric acid, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and the solvent was then removed by evaporation under the reduced pressure. The oil thus obtained was dried in vacuo to give ethyl 5-(3,4-dimethoxybenzoyl)-1H-1,2,3-triazole-4-carboxylate (149 mg, 65%).

reactant | sodium azide | 1.1 mmol, 1.0 mL, 74 mg | [N-]=[N+]=[N-].[Na+]
reactant | ethyl 4-(3,4-dimethoxyphenyl)-4-oxo-2-butenate | 0.76 mmol, 1.5 mL, 200 mg | COC=1C=C(C=CC1OC)C(C=CC(=O)OCC)=O | C14H16O5
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
catalyst | Copper(I) chloride | 0.075 mmol, 7.5 mg | [Cu]Cl
product | ethyl 5-(3,4-dimethoxybenzoyl)-1H-1,2,3-triazole-4-carboxylate | 149 mg, 65% | COC=1C=C(C(=O)C2=C(N=NN2)C(=O)OCC)C=CC1OC | C14H15N3O5
